US05059609
trans-3-Benzyl-6-(6-methyl-2-pyridyl)methoxy-4-chromanol
By the method of Example 5, 500 mg (1.96 mmol) of trans-3-benzyl-4,6-chromandiol and 401 mg of 2-(bromomethyl)-6-methyl pyridine were converted to present title product, purified by flash chromatography on silica gel using 1:1 ethyl acetate:hexane as eluant to yield 0.38 g (53%) of present title product as white crystals, m.p. 87°-90° C.

reactant | trans-3-benzyl-4,6-chromandiol | 1.96 mmol, 500 mg | C(C1=CC=CC=C1)[C@@H]1COC2=CC=C(C=C2[C@H]1O)O | C16H16O3
reactant | 2-(bromomethyl)-6-methyl pyridine | 401 mg | BrCC1=NC(=CC=C1)C | C7H8BrN
product | trans-3-Benzyl-6-(6-methyl-2-pyridyl)methoxy-4-chromanol | C(C1=CC=CC=C1)[C@@H]1COC2=CC=C(C=C2[C@H]1O)OCC1=NC(=CC=C1)C | C23H23NO3
